US06350913B1
2-[2-(5-Ethyl-2-isopropoxyphenoxy)ethyl]isoindole-1,3dione (4c)
0.15 g of 10% palladium-on-charcoal is added to a solution of 0.53 g of 2-[2-(isopropoxy-5-vinylphenoxy)ethyl]isoindole-1,3-dione (1.51 mmol) in 8 ml of methanol. The suspension is stirred under a hydrogen atmosphere for 2 hours, the solid is then removed by filtration on a silica filter, and the solvent is evaporated off. The title product is isolated by crystallization from a cyclohexane/ethyl acetate mixture. 0.53 g of a white solid is obtained:

reactant | 2-[2-(isopropoxy-5-vinylphenoxy)ethyl]isoindole-1,3-dione | 1.51 mmol, 0.53 g | C(C)(C)OC1=C(OCCN2C(C3=CC=CC=C3C2=O)=O)C=C(C=C1)C=C | C21H21NO4
solvent | methanol | 8 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.15 g | [Pd] | Pd
product | 2-[2-(5-Ethyl-2-isopropoxyphenoxy)ethyl]isoindole-1,3dione | C(C)C=1C=CC(=C(OCCN2C(C3=CC=CC=C3C2=O)=O)C1)OC(C)C | C21H23NO4
